US05166198
9-[1-(Hydroxymethyl)-3-phosphonopropoxy]guanine
A solution of 2-amino-9-[3-(diethoxyphosphoryl)-1-(hydroxymethyl)propoxy]-6-methoxypurine and bromotrimethylsilane (1.98 ml, 15 mmol) in dry dimethylformamide (5ml) was stirred at ambient temperature for 4 hours. The solvent was evaporated and the residue was coevaporated with methanol (5 ml) and acetone:water (1:1) solution. The product was crystallised from acetone:water (1:1) to give the title compound (90 mg, 56%) m.p. 177°-178° C. UV: λmax (H2O) 254 (12400)nm. λsh(H2O) 268 (9365)nm. IR: max (KBr) 3393, 3388, 3347, 3196, 3125, 2929, 2763, 2357, 1700, 1641, 1534, 1474, 1443, 1394, 1317, 1257, 1219, 1162, 1101, 1075, 992, 958, 818, 792, 772 cm-1. 1H NMR δH [CD3)2SO] 1.67-1.94 (4H, m, CH2CH2P), 3.45-3.57 (2H, m, CH2OH), 4.25-4.31 (1H, m, NOCH), 6.59 (2H, br.s, D2O exchangeable NH2), 7.88 (1H, s, H-8), 10.65 (1H, br.s, D2O exchangeable NH), 2.75-6.25 (3H, broad, D2O exchangeable OH, PO(OH)2). Found: C, 33.21; H, 5.01; N, 21.42%. C9H14N5O6P 0.4 H2O requires: C, 33.11; H, 4.56; N, 21.45%. m/z (FAB+ve ion, thioglycerol) MH+ 320.

reactant | 2-amino-9-[3-(diethoxyphosphoryl)-1-(hydroxymethyl)propoxy]-6-methoxypurine | NC1=NC(=C2N=CN(C2=N1)OC(CCP(=O)(OCC)OCC)CO)OC | C14H24N5O6P
reactant | bromotrimethylsilane | 15 mmol, 1.98 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dimethylformamide | 5ml | CN(C=O)C | C3H7NO
product | 9-[1-(Hydroxymethyl)-3-phosphonopropoxy]guanine | 90 mg, 56% | OCC(CCP(=O)(O)O)ON1C=2N=C(NC(C2N=C1)=O)N | C9H14N5O6P
